US08461134B2
Ethyl 2-(5-amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetate
Ethyl 2-(2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate (0.25 g, 0.50 mmol) and NH3 (7M in MeOH, 5 mL) was heated to 80° C. for 2 hrs. The reaction was monitored by LC/MS. Purification: The solvent was removed in vacuo and the product was recrystallized from EtOAc/MeOH to give 80 mg of the title compound as a white solid (yield: 40%). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.62 (s, 1H), 9.27 (bs, 1H), 7.64 (d, J=8.2 Hz, 1H), 7.31 (d, J=8.8 Hz, 1H), 7.16 (d, J=10 Hz, 1H), 6.41 (d, J=2.4 Hz, 1H), 6.36 (dd, J=8.8, 2 Hz, 1H), 5.94 (s, 2H), 4.88 (s, 2H), 4.05 (q, J=7.6 Hz, 2H), 3.87 (s, 2H), 1.17 (t, J=7.2 Hz, 3H); MS (ESI) m/z=407.1 (M−H, negative).

reactant | Ethyl 2-(2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-5-(2,2,2-trifluoroacetamido)phenyl)acetate | 0.50 mmol, 0.25 g | FC1=CC2=C(B(OC2)O)C=C1NS(=O)(=O)C1=C(C=C(C=C1)NC(C(F)(F)F)=O)CC(=O)OCC | C19H17BF4N2O7S
reactant | NH3 | 7M, 5 mL | N | H3N
product | Ethyl 2-(5-amino-2-(N-(5-fluoro-1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetate | 80 mg, yield: 40% | NC=1C=CC(=C(C1)CC(=O)OCC)S(NC=1C(=CC2=C(B(OC2)O)C1)F)(=O)=O | C17H18BFN2O6S
